US07977344B2
6-Amino-2-butylamino-9-(tetrahydro-2H-pyran-3-ylmethyl)-7,9-dihydro-8H-Purin-8-one
To a solution of N2-butyl-8-methoxy-9-(tetrahydro-2H-pyran-3-ylmethyl)-9H-purine-2,6-diamine (45 mg) in dry methanol (3 ml) at room temperature and under nitrogen was added 4.0M hydrogen chloride in 1,4-dioxane (0.7 ml) in one go. The reaction was left to stir at room temperature for 3 hours. The reaction was neutralised by the addition of 2.0M sodium hydroxide solution and concentrated in vacuo. The residue was taken up in water (5 ml) and the solid filtered and dried in vacuo (60° C.) for 30 minutes. This afforded the title compound as a solid (25 mg).

reactant | N2-butyl-8-methoxy-9-(tetrahydro-2H-pyran-3-ylmethyl)-9H-purine-2,6-diamine | 45 mg | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CC1COCCC1)OC)N | C16H26N6O2
reactant | hydrogen chloride | 4.0M | Cl | ClH
reactant | sodium hydroxide | 2.0M | [OH-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
solvent | 1,4-dioxane | 0.7 ml | O1CCOCC1 | C4H8O2
product | 6-Amino-2-butylamino-9-(tetrahydro-2H-pyran-3-ylmethyl)-7,9-dihydro-8H-Purin-8-one | 25 mg | NC1=C2NC(N(C2=NC(=N1)NCCCC)CC1COCCC1)=O | C15H24N6O2
